US04888439
N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)diisobutylamine
Starting materials: 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid and diisobutylamine.

reactant | 2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoic acid | CC(C(=O)O)=CCCC(=CCCC(=CCCC(C)=O)C)C | C18H28O3
reactant | diisobutylamine | C(C(C)C)NCC(C)C | C8H19N
product | N-(2,6,10-trimethyl-14-oxo-2,6,10-pentadecatrienoyl)diisobutylamine | CC(C(=O)N(CC(C)C)CC(C)C)=CCCC(=CCCC(=CCCC(C)=O)C)C | C26H45NO2
